US07557114B2
(a) 5-Fluoro-6-(tetrahydro-pyran-4-yloxy)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A6(a) from 5-fluoro-6-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A84(f)) and tetrahydro-4H-pyran-4-ol. Yellow solid. MS (m/e): 282.3 ([M+H-Me2C═CH2]+, 100%).

reactant | 5-fluoro-6-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)F)I | C13H15FINO2
reactant | tetrahydro-4H-pyran-4-ol | O1CCC(CC1)O | C5H10O2
product | 5-Fluoro-6-(tetrahydro-pyran-4-yloxy)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)F)OC1CCOCC1 | C18H24FNO4
